US08871782B2
The general method described in Part L of Example 2 was used to treat 1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-ol with tert-butyl 4-(2-iodoethyl)piperidine-1-carboxylate. After the work-up procedure, tert-butyl 4-(2-{[1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethyl)piperidine-1-carboxylate was isolated as a gray-brown solid and used without purification.

reactant | 1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-ol | CC(CN1C(=NC=2C=NC=3C=C(C=CC3C21)O)CCC)C | C17H21N3O
reactant | tert-butyl 4-(2-iodoethyl)piperidine-1-carboxylate | ICCC1CCN(CC1)C(=O)OC(C)(C)C | C12H22INO2
product | tert-butyl 4-(2-{[1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethyl)piperidine-1-carboxylate | CC(CN1C(=NC=2C=NC=3C=C(C=CC3C21)OCCC2CCN(CC2)C(=O)OC(C)(C)C)CCC)C | C29H42N4O3
